US07495007B2
Preparation of intermediate racemic (2′R,3R,4′S)-1′-allyl-6-bromo-4′-(3-chlorophenyl)-2′-(1-methyl cyclopropyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-methoxyethyl trimethylsilane
To a solution of racemic (2′R,3R,4′S)-6-bromo-4′-(3-chlorophenyl)-2′-(1-methyl cyclopropyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine]-1-methoxyethyl trimethylsilane (200 mg, 0.34 mmol) and allyl bromide (1.2 g, 10 mmol) in DMF (15 mL) was added Cs2CO3 (4 g, 12.1 mmol). The mixture was stirred at room temperature for 2 h, then poured into water (100 mL), extracted with ethyl acetate for 3 times. The organic layer was washed with water, dried over Na2SO4, concentrated to give crude product as a light yellow solid (210 mg).

reactant | racemic (2′R,3R,4′S)-6-bromo-4′-(3-chlorophenyl)-2′-(1-methyl cyclopropyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine] 1-methoxyethyl trimethylsilane | 0.34 mmol, 200 mg | BrC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1(CC1)C)=O.COC(C)[Si](C)(C)C
reactant | allyl bromide | 10 mmol, 1.2 g | C(C=C)Br | C3H5Br
reactant | Cs2CO3 | 12.1 mmol, 4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | racemic (2′R,3R,4′S)-1′-allyl-6-bromo-4′-(3-chlorophenyl)-2′-(1-methyl cyclopropyl)-2,3-dihydro-2,6′-dioxospiro[indole-3,3′-piperidine] 1-methoxyethyl trimethylsilane | 210 mg | C(C=C)N1C(C2(C(CC1=O)C1=CC(=CC=C1)Cl)C(NC1=CC(=CC=C12)Br)=O)C1(CC1)C.COC(C)[Si](C)(C)C | InChI=1S/C25H24BrClN2O2.C6H16OSi/c1-3-11-29-21(30)14-19(15-5-4-6-17(27)12-15)25(22(29)24(2)9-10-24)18-8-7-16(26)13-20(18)28-23(25)31;1-6(7-2)8(3,4)5/h3-8,12-13,19,22H,1,9-11,14H2,2H3,(H,28,31);6H,1-5H3
